US06531491B1
3-(1,1-Dimethoxy-methyl)-6-[2-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole (1.1 g, 1.92 mmol) was stirred in 1% TFA/CH2Cl2 (20 mL) for 1 h at rt. Concentration in vacuo yielded 1.01 g (100%) of 6-[2-methoxy4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-3-carbaldehyde as a clear oil. 1H NMR (300 MHz, CDCl3) δ 10.27 (s, 1H), 8.28 (d, 1H, J=8.4 Hz), 7.73 (s, 1H), 7.55 (dd, 1H, J=8.4, 1.2 Hz), 7.29 (d, 1H, J=8.4 Hz), 6.72-6.79 (m, 2H), 5.82 (s, 2H), 5.28 (s, 2H), 3.78-3.84 (m, 5H), 3.61 (t, 2H, J=8.1 Hz), 0.89-1.03 (m, 4H), 0.03 (s, 9H), −0.05 (s, 9H).

reactant | 3-(1,1-Dimethoxy-methyl)-6-[2-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | 1.92 mmol, 1.1 g | COC(OC)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C=C1)OCOCC[Si](C)(C)C)OC)COCC[Si](C)(C)C | C29H46N2O6Si2
solvent | TFA CH2Cl2 | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 6-[2-methoxy4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-3-carbaldehyde | 1.01 g, 100% | COC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=O | C27H40N2O5Si2
